US05364561
After 4-n-octyloxybiphenyl-4'-carboxylic acid (3.0 g) was heated under reflux together with an excessive amount of thionyl chloride for 6 hours, unaltered thionyl chloride was removed by distillation to give 4-n-octyloxybiphenyl-4'-carboxylic acid chloride.

reactant | 4-n-octyloxybiphenyl-4'-carboxylic acid | 3.0 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-n-octyloxybiphenyl-4'-carboxylic acid chloride | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO2
